US07696213B2
8-Cyclobutyl-6-(6-methoxypyridin-3-yl)-4-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-7(8H)-one (Compound 109)
Following the procedure described in Example 22, using 8-cyclobutyl-6-(6-methoxypyridin-3-yl)-4-methyl-2-(methylsulfinyl)pyrido[2,3-d]pyrimidin-7(8H)-one in place of 6-(6-methoxypyridin-3-yl)-4-methyl-2-ethylsulfinyl)pyrido[2,3-d]pyrimidin-7(8H)-one, the title compound was obtained in 35% yield.

reactant | 8-cyclobutyl-6-(6-methoxypyridin-3-yl)-4-methyl-2-(methylsulfinyl)pyrido[2,3-d]pyrimidin-7(8H)-one | C1(CCC1)N1C(C(=CC2=C1N=C(N=C2C)S(=O)C)C=2C=NC(=CC2)OC)=O | C19H20N4O3S
reactant | pyrido[2,3-d]pyrimidin-7(8H)-one | N1=CN=CC2=C1NC(C=C2)=O | C7H5N3O
product | 8-Cyclobutyl-6-(6-methoxypyridin-3-yl)-4-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-7(8H)-one | 35% yield | C1(CCC1)N1C(C(=CC2=C1N=C(N=C2C)NC)C=2C=NC(=CC2)OC)=O | C19H21N5O2
